US08183241B2
18.1. Synthesis of 1-[(6-chloro-9H-purin-9-yl)methyl]-4-propylpyrrolidin-2-one x75
A solution of commercially available 6-chloro-7H-purine x74 (0.5 g, 3.23 mmol), 1-(hydroxymethyl)-4-propylpyrrolidin-2-one x2 (1 eq, 3.23 mmol, 0.508 g), and (2-oxo-4-propylpyrrolidin-1-yl)methyl diethylcarbamate x6 (0.1 eq, 83 mg, 0.32 mmol) in acetonitrile (5 ml) is heated 30 minutes in a microwave apparatus (Biotage, 150 W, 130° C.). After cooling to room temperature, the solvent is removed under reduced pressure and the crude product is purified by preparative chromatography leading to 600 mg of pure 1-[(6-chloro-9H-purin-9-yl)methyl]-4-propylpyrrolidin-2-one x75.

reactant | 6-chloro-7H-purine | ClC1=C2NC=NC2=NC=N1 | C5H3ClN4
reactant | 1-(hydroxymethyl)-4-propylpyrrolidin-2-one | OCN1C(CC(C1)CCC)=O | C8H15NO2
reactant | (2-oxo-4-propylpyrrolidin-1-yl)methyl diethylcarbamate | C(C)N(C(OCN1C(CC(C1)CCC)=O)=O)CC | C13H24N2O3
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 1-[(6-chloro-9H-purin-9-yl)methyl]-4-propylpyrrolidin-2-one | ClC1=C2N=CN(C2=NC=N1)CN1C(CC(C1)CCC)=O | C13H16ClN5O
